US05498630
2-Chloro-N-ethyl-6-(1,1-dimethylethyl)benzamide
To a solution of 2-tert-butyl-N-ethylbenzamide (44 g, 215 mmol) and TMEDA (70 mL, 446 mmol) in 500 mL THF at -70° C. under a positive nitrogen atmosphere was added at a rapid stream 520 mL 1.3M s-BuLi in cyclohexane, maintaining the temperature at below -60° C. After the addition was complete, the resulting reaction solution was warmed to -30° C. and stirred at between -30° C. and -26° C. for 50 min. The solution was then cooled to below -70° C. and a solution of hexachloroethane (80 g) in 250 mL THF was added at between -70° and -65° C. Stirring at below -70° C. was continued for 0.5 h. The resulting reaction solution was then poured into water. CH2Cl2 and 3N HCl were added. The aq layer was separated and extracted with CH2Cl2. The combined organic layers were washed with water, dried and concentrated in vacuo. The solid was triturated with hexane and then purified by flash chromatography with 15% ethyl acetate/hexane as eluent to give the desired product as a white solid. m.p. 121°-123° C.

reactant | 2-tert-butyl-N-ethylbenzamide | 215 mmol, 44 g | C(C)(C)(C)C1=C(C(=O)NCC)C=CC=C1 | C13H19NO
reactant | TMEDA | 446 mmol, 70 mL | CN(C)CCN(C)C | C6H16N2
reactant | s-BuLi | 1.3M, 520 mL | [Li]C(C)CC
reactant | hexachloroethane | 80 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | HCl | 3N | Cl | ClH
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-Chloro-N-ethyl-6-(1,1-dimethylethyl)benzamide | ClC1=C(C(=O)NCC)C(=CC=C1)C(C)(C)C | C13H18ClNO
